US04034034
In an Erlenmeyer flask of 1 liter capacity, 6.51 grams of cerium nitrate and 4.5 grams of acetylacetone are dissolved in 300 ml. of distilled water. A 2% ammonium solution is added in drops, shaking vigorously, until a pH value of exactly 8.0 is achieved. This results in a light yellow precipitate of cerium acetylacetone-monohydrate, identified by the formula Ce(CH3COCHCOCH3)3. H2 0 which is suctioned off by a Buechner funnel and rinsed with 300 ml. of distilled water. The precipitate is dried under high vacuum without heating until a dust-like or pulverulent product is obtained.

reactant | acetylacetone | 4.5 grams | C(C)(=O)CC(C)=O | C5H8O2
reactant | water | O | H2O
reactant | ammonium | [NH4+]
reactant | cerium nitrate | 6.51 grams | [N+](=O)([O-])[O-].[Ce+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | cerium acetylacetone-monohydrate | O.C(C)(=O)CC(C)=O.[Ce] | InChI=1S/C5H8O2.Ce.H2O/c1-4(6)3-5(2)7;;/h3H2,1-2H3;;1H2
